US07378525B2
4-(4-Benzoylamino-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid isopropyl amide (C-2)
To a 25° C. solution of N-[4-(piperidin-4-yl sulfamoyl)-naphthalen-1-yl]-benzamide (C-1) in CH2Cl2 was added Et3N followed by 2-isocyanato-propane. The reaction mixture was stirred at 25° C. overnight. Aqueous work-up followed by purification using reverse phase HPLC provided the title compound. 1H NMR (300 MHz, MeOD) δ 8.74 (d, 1H), 8.29 (d, 1H), 8.17 (d, 1H), 8.07 (s, 1H), 8.05 (s, 1H), 7.81 (d, 1H), 7.63 (m, 5H), 3.75 (m, 3H), 3.21 (m, 1H), 2.68 (t, 2H), 1.51 (m, 2H), 1.26 (m, 2H), 1.05 (d, 6H); LC/MS (M+H)+ m/z 495.

reactant | N-[4-(piperidin-4-yl sulfamoyl)-naphthalen-1-yl]-benzamide | N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=CC=CC=C1)=O | C22H23N3O3S
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | 2-isocyanato-propane | N(=C=O)C(C)C | C4H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-Benzoylamino-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid isopropyl amide | C(C)(C)NC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=CC=CC=C1)=O | C26H30N4O4S
